US07595345B2
D. 3-{4-[1-(4-Benzyloxy-3-methyl-phenyl)-1-ethyl-propyl]-2-methyl-phenoxymethyl}-2,4-dimethyl-pentan-3-ol
Anhydrous CeCl3 (0.82 g) is suspended in THF (30 mL) with stirring overnight. It is cooled to 0° C., treated with 2.0 M iPrMgCl (1.3 mL) and stirred at 0° C. for 1 h. A solution of 1-{4-[1-(4-benzyloxy-3-methyl-phenyl)-1-ethyl-propyl]-2-methyl-phenoxy}-3-methyl-butan-2-one (1.01 g, 2.21 mmol) in THF (10 mL) is added. The mixture is stirred at 0° C. for 1 h, before it is quenched with 0.1 M HCl (20 mL). It is extracted with EtOAc (200 mL), washed with 0.1 M HCl (3×50 mL); MgSO4 dried and concentrated to give the title compound (1.10 g, 2.19 mmol, 99%). 1H NMR (CDCl3), δ 0.62 (t, J=7.0 Hz, 6H), 1.01 (d, J=7.1 Hz, 6H), 1.04 (d, J=7.1 Hz, 6H), 1.57 (b, 2H), 2.04 (q, J=7.0 Hz, 4H), 2.17 (s, 3H), 2.24 (s, 3H), 3.88 (s, 2H), 5.04 (s, 2H), 6.70 (d, J=8.3 Hz, 1H), 6.77 (d, J=9.2 Hz, 1H), 6.90 (d, J=2.2 Hz, 1H), 6.93-6.98 (m, 3H), 7.29-7.47 (m, 5H).

reactant | iPrMgCl | 2.0 M, 1.3 mL | C(C)(C)[Mg]Cl
reactant | 1-{4-[1-(4-benzyloxy-3-methyl-phenyl)-1-ethyl-propyl]-2-methyl-phenoxy}-3-methyl-butan-2-one | 2.21 mmol, 1.01 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(CC)(CC)C1=CC(=C(OCC(C(C)C)=O)C=C1)C)C | C31H38O3
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-{4-[1-(4-Benzyloxy-3-methyl-phenyl)-1-ethyl-propyl]-2-methyl-phenoxymethyl}-2,4-dimethyl-pentan-3-ol | 2.19 mmol, 1.10 g, 99% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(CC)(CC)C1=CC(=C(OCC(C(C)C)(C(C)C)O)C=C1)C)C | C34H46O3
